US06403804B1
Synthesis of ethyl (S)-4-benzyloxy-3-hydroxybutyrate
In a 100 ml autoclave were charged 20.0 g (84.7 mmol) of ethyl 4-benzyloxy-3-oxobutyrate, 16 ml of ethanol, and 31 mg (0.034 mmol) of Ru2Cl4((R)-Tol-BINAP)2.NEt3, and asymmetric hydrogenation was performed at 100° C. under a hydrogen pressure of 10 torr for 3 hours (conversion: 100%). The solvent was evaporated under reduced pressure to give 18.0 g of the title compound as liquid.

reactant | ethyl 4-benzyloxy-3-oxobutyrate | 84.7 mmol, 20.0 g | C(C1=CC=CC=C1)OCC(CC(=O)OCC)=O | C13H16O4
reactant | ethanol | 16 ml | C(C)O | C2H6O
solvent | NEt3 | CCN(CC)CC | C6H15N
product | ethyl (S)-4-benzyloxy-3-hydroxybutyrate | 18.0 g | C(C1=CC=CC=C1)OC[C@H](CC(=O)OCC)O | C13H18O4
